US07825253B2
N2-(2-Methyl-benzofuran-7-yl)-N5-pyridin-3-ylmethyl-quinoline-2,5-diamine
The title compound, MS: m/e=381.0 (M+H+), was prepared from 5-nitro-2-chloroquinoline, (2-methyl-1-benzofuran-7-yl)amine and pyridine-3-carbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | (2-methyl-1-benzofuran-7-yl)amine | CC=1OC2=C(C1)C=CC=C2N | C9H9NO
reactant | pyridine-3-carbaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
product | N2-(2-Methyl-benzofuran-7-yl)-N5-pyridin-3-ylmethyl-quinoline-2,5-diamine | CC=1OC2=C(C1)C=CC=C2NC2=NC=1C=CC=C(C1C=C2)NCC=2C=NC=CC2 | C24H20N4O
